US07776869B2
To a solution of (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ol (3.35 g, 11.5 mmol) and imidazole (1.02 g, 15.0 mmol) in DMF at ambient temperature under nitrogen was added tert-butyldimethylsilylchloride (1.91 g, 12.7 mmol). The reaction was allowed to stir for 24 h, at which point additional 0.3 g tert-butyldimethylsilylchloride was added. The reaction was allowed to stir for an additional 14 h, and was then poured into Et2O/saturated aqueous NaHCO3. The organic layer was washed 2×H2O, 1×brine, dried over anhydrous MgSO4, filtered and concentrated to a yellow oil. The crude material was treated with hexanes and adsorbed onto silica gel and passed through a Redi-Sep® pre-packed silica gel column (80 g) eluting with 0-20% EtOAc/hexane. The product-containing fractions were concentrated to afford (R)-3-(tert-butyldimethylsilyloxy)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidine as a yellow oil. MS m/z=405 [M+H]+. Calc'd for C18H27F3N2O3Si: 404.

reactant | (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ol | 11.5 mmol, 3.35 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@@H](CCC1)O | C12H13F3N2O3
reactant | imidazole | 15.0 mmol, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 12.7 mmol, 1.91 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | tert-butyldimethylsilylchloride | 0.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Et2O | CCOCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-3-(tert-butyldimethylsilyloxy)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidine | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H27F3N2O3Si
